US07557244B2
To a solution of (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (120 g, 0.29 mol) in THF (1.2 L) was added water (240 mL), LiOH.H2O (16 g, 0.32 mol) and the resulting mixture was stirred at room temperature for 16 h. The solution was filtered and concentrated in vacuo to remove THF. The resulting thick liquid was acidified to pH 2 by adding 2N aqueous HCl solution and the white suspension was mechanically stirred for 1 h at room temperature. The wet white product was recovered after filtration and dissolved in EtOAc (500 mL). The organic layer was separated from water, dried (MgSO4) and concentrated in vacuo to obtain (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid (105 g, 94%).

reactant | (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.29 mol, 120 g | C(C)OC(CC=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C24H21F3O3
reactant | water | 240 mL | O | H2O
reactant | LiOH.H2O | 0.32 mol, 16 g | O[Li].O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
product | (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | 105 g, 94% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C22H17F3O3
